US07550484B2
Using General Procedure A: A solution of 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (0.829 g, 3.10 mmol), 4-bromomethyl-3-nitrobenzoic acid methyl ester (1.26 g, 4.61 mmol), KI (115 mg, 0.69 mmol), and DIPEA (1.20 mL, 6.89 mmol) in DMF (16 mL) was heated at 60° C. for 18 hours. Purification of the crude material by column chromatography on silica gel (40:1:1 CH2Cl2—CH3OH—NH4OH) provided 1.40 g (98%) of 4-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-3-nitro-benzoic acid methyl ester as a tan solid. To a solution of 4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-3-nitro-benzoic acid methyl ester (1.40 g,3.03 mmol) in MeOH (15 mL) and EtOAc (15 mL) was added palladium (50% wet with water), 10 wt. % on activated carbon (0.30 g). The resultant mixture was hydrogenated at 30 psi on a Parr shaker for 3 hours. The mixture was vacuum filtered through celite and the cake was washed with MeOH and EtOAc. The solvent was removed from the filtrate under reduced pressure and the thus obtained oil was purified by column chromatography on silica gel (40:1:1 CH2Cl2—CH3OH—NH4OH) and provided 0.90 g (69%) of 3-amino-4-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzoic acid methyl ester.

reactant | 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 3.10 mmol, 0.829 g | CC=1C(=NC=CC1)C1NC(CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 4-bromomethyl-3-nitrobenzoic acid methyl ester | 4.61 mmol, 1.26 g | COC(C1=CC(=C(C=C1)CBr)[N+](=O)[O-])=O | C9H8BrNO4
reactant | DIPEA | 6.89 mmol, 1.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | 3-nitro-benzoic acid methyl ester | COC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C8H7NO4
